US07652049B2
A solution of benzyl ((1S,2S)-3-amino-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methyl-3-thioxopropyl)carbamate (96.8 mg, 0.253 mmol) and chloroacetone (117 mg, 101 μL, 1.27 mmol) in dry EtOH (5 mL) was heated at reflux under N2 for 20 h, then stirred at room temperature for 2 days. The reaction mixture was concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 12×160 mm, 0-100% EtOAc in hexanes gradient) to afford benzyl [(1S,2S)-2-hydroxy-1-methyl-2-(4-methyl-1,3-thiazol-2-yl)ethyl]carbamate. Rf=0.44 (50% EtOAc in hexanes). LCMS calc.=307.1; found=307.1 (M+1)+. 1H NMR (500 MHz, CDCl3) δ 7.31 (m, 5H), 6.80 (s, 1H), 5.49 (br s, 1H), 5.06 (m, 3H), 4.26-4.18 (m, 1H), 2.38 (s, 3H), 1.09 (d, J=6.5 Hz, 3H).

reactant | benzyl ((1S,2S)-3-amino-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methyl-3-thioxopropyl)carbamate | 0.253 mmol, 96.8 mg | NC([C@H]([C@H](C)NC(OCC1=CC=CC=C1)=O)O[Si](C)(C)C(C)(C)C)=S | C18H30N2O3SSi
reactant | chloroacetone | 1.27 mmol, 101 μL, 117 mg | ClCC(C)=O | C3H5ClO
solvent | EtOH | 5 mL | CCO | C2H6O
product | benzyl [(1S,2S)-2-hydroxy-1-methyl-2-(4-methyl-1,3-thiazol-2-yl)ethyl]carbamate | O[C@@H]([C@H](C)NC(OCC1=CC=CC=C1)=O)C=1SC=C(N1)C | C15H18N2O3S
